US07304081B2
Step 1. tert-butyl 3-hydroxy-3-phenylpyrrolidine-1-carboxylate
To a solution of tert-butyl 3-oxopyrrolidine-1-carboxylate (1.0 g, 0.0054 mol) in ether (20.000 mL, 0.19050 mol) was added dropwise a solution of phenylmagnesium bromide (1.12 g, 0.00621 mol) in ether (10.3 mL) at rt under N2. After the addition was complete, the reaction mixture was heated to reflux for 15 min. and then cooled to rt. The reaction mixture was poured into saturated NH4Cl and extracted with ether (3×). The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The product was purified by Combiflash eluting with 0-40% EtOAc-hexanes. The product was confirmed by 1H NMR and LC/MS: m/z 286.0 (M+Na)+.

reactant | tert-butyl 3-oxopyrrolidine-1-carboxylate | 0.0054 mol, 1.0 g | O=C1CN(CC1)C(=O)OC(C)(C)C | C9H15NO3
reactant | phenylmagnesium bromide | 0.00621 mol, 1.12 g | C1(=CC=CC=C1)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 10.3 mL | CCOCC | C4H10O
solvent | ether | 0.19050 mol, 20.000 mL | CCOCC | C4H10O
product | tert-butyl 3-hydroxy-3-phenylpyrrolidine-1-carboxylate | OC1(CN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C15H21NO3
